US06900354B2
N-Ethyl-3-[4-(3-fluoro-benzyloxy)-phenyl]-acrylamide
The title compound is prepared in analogy to example 9, using crude 3-[4-(3-fluoro-benzyloxy)-phenyl]-acryloyl chloride and a 2 M solution of ethylamine in dichloromethane. Colorless solid. Yield=72%. MS: m/e=300.3 (M++H).

reactant | 3-[4-(3-fluoro-benzyloxy)-phenyl]-acryloyl chloride | FC=1C=C(COC2=CC=C(C=C2)C=CC(=O)Cl)C=CC1 | C16H12ClFO2
reactant | ethylamine | C(C)N | C2H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Ethyl-3-[4-(3-fluoro-benzyloxy)-phenyl]-acrylamide | Yield=72% | C(C)NC(C=CC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C18H18FNO2
